US09339502B2
Step 5: 2-[4-(2-Amino-1-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-piperazin-1-yl]-ethanol.
2-[4-(1-Methoxy-2-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-piperazin-1-yl]-ethanol (19.0 g, 54.4 mmol) was split into two batches and dissolved in a total of Ethanol (232 mL). 10% Pd/C (1.74 g, 1.64 mmol) was divided in half and the reaction was hydrogenated for 3-4 hours at 50 psi. Each reaction mixture was filtered through celite to remove Pd. The filtrates were combined and then concentrated and the title compound isolated as a foamy solid (17.25 g, 99% yield). 1H-NMR (400 MHz, CDCl3) 6.76 (d, J=7.9 Hz, 1H), 6.53 (d, J=7.9 Hz, 1H), 3.72 (broad s, 3H), 3.71 (s, 3H),3.64 (t, J=5.4 Hz, 2H), 3.26-3.20 (m, 1H), 2.84-2.72 (m, 5H), 2.62-2.56 (m, 8H), 2.42-2.35 (m, 2H), 2.40-2.37 (m, 1H), 1.81-1.74 (m, 1H), 1.70 (broad s, 1H), 1.41-1.33 (m, 1H). LC/MS (ESI+) m/z=320 (M+H)+

reactant | 2-[4-(1-Methoxy-2-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-piperazin-1-yl]-ethanol | 54.4 mmol, 19.0 g | COC1=C(C=CC2=C1CCCC(C2)N2CCN(CC2)CCO)[N+](=O)[O-] | C18H27N3O4
solvent | Ethanol | 232 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.64 mmol, 1.74 g | [Pd] | Pd
product | 2-[4-(2-Amino-1-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-piperazin-1-yl]-ethanol | NC=1C=CC2=C(CCCC(C2)N2CCN(CC2)CCO)C1OC | C18H29N3O2
